US04720445
Preparation of Maleimide-Hexadecyl Vinyl Ether Copolymer
A polymer was prepared in the manner of Example 1, except the comonomer to maleimide was n-hexadecyl vinyl ether. The polymer yield was 62%.

reactant | maleimide | C1(C=CC(N1)=O)=O | C4H3NO2
reactant | n-hexadecyl vinyl ether | C(=C)OCCCCCCCCCCCCCCCC | C18H36O
product | Maleimide Hexadecyl Vinyl Ether | yield was 62% | C1(C=CC(N1)=O)=O.C(=C)OCCCCCCCCCCCCCCCC | InChI=1S/C18H36O.C4H3NO2/c1-3-5-6-7-8-9-10-11-12-13-14-15-16-17-18-19-4-2;6-3-1-2-4(7)5-3/h4H,2-3,5-18H2,1H3;1-2H,(H,5,6,7)
